US09056859B2
A mixture of ethyl 6-amino-1-benzofuran-3-carboxylate (2.0 g, 9.8 mmol) in 50 mL of MeOH was added Mg filings (1.17 g, 49 mmol) ans the mixtrue was stired overnight at room temperature. The mixture was filtered and the filtrate was concentrated. The residue was then partitioned between EtOAc and water. The combined organic phase was washed with brine, dried over anhydrous sodium sulfate and concentrated. The residue was purified with silca gel column chromatograph to give methyl 6-amino-2,3-dihydro-1-benzofuran-3-carboxylate.

reactant | ethyl 6-amino-1-benzofuran-3-carboxylate | 9.8 mmol, 2.0 g | NC1=CC2=C(C(=CO2)C(=O)OCC)C=C1 | C11H11NO3
solvent | MeOH | 50 mL | CO | CH4O
product | methyl 6-amino-2,3-dihydro-1-benzofuran-3-carboxylate | NC1=CC2=C(C(CO2)C(=O)OC)C=C1 | C10H11NO3
